US05262540
A mixture of 4,5-diphenyl-2-oxazole nonanoic acid (800 mg, 2 mmol), methanol (2 mL) and concentrated sulfuric acid (2 drops) was heated to reflux. After 2 hours, the solvent was evaporated and the residue partitioned between CH2Cl2 and water. The organic phase was separated, washed with saturated NaHCO3 solution, dried over sodium sulfate and concentrated in vacuo to leave an oil. Chromatography on a column of silica gel using a mixture of hexanes and diethyl ether (4:1) as eluent gave methyl 4,5-diphenyl-2-oxazolenonanoate (800 mg, 96%).

reactant | 4,5-diphenyl-2-oxazole nonanoic acid | 2 mmol, 800 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CCCCCCCCC(=O)O | C24H27NO3
reactant | methanol | 2 mL | CO | CH4O
catalyst | sulfuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | C(C)OCC | C4H10O
product | methyl 4,5-diphenyl-2-oxazolenonanoate | 800 mg, 96% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CCCCCCCCC(=O)OC | C25H29NO3
